US06037356
2. 2-(Benzyloxycarbonylamino)ethoxyamine
To a solution of N-[2-(benzyloxycarbonylamino)ethoxy]phthalimide (1.36 g, 4.0 mmol), as prepared in the preceding step, in ethanol (20 mL) and tetrahydrofuran (20 mL) was added 40% methylamine (2 mL, 25 mmol). The reaction mixture was stirred at room temperature for 1 h. After evaporating the solvent, the residue was passed through silica gel (3:1 ethyl acetate:hexane to ethyl acetate) to give the title compound as a white solid (800 mg, 95%). 1H-NMR (300 MHz, CDCl3) δ7.36 (m, 5H), 5.47 (br s, 2H), 5.21 (br s, 1H), 5.10 (s, 2H), 3.72 (t, J=5.0 Hz, 2H), 3.44 (q, J=5.0 Hz, 2H).

reactant | N-[2-(benzyloxycarbonylamino)ethoxy]phthalimide | 4.0 mmol, 1.36 g | C(C1=CC=CC=C1)OC(=O)NCCON1C(C=2C(C1=O)=CC=CC2)=O | C18H16N2O5
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | methylamine | 25 mmol, 2 mL | CN | CH5N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-(Benzyloxycarbonylamino)ethoxyamine | 800 mg, 95% | C(C1=CC=CC=C1)OC(=O)NCCON | C10H14N2O3
